US04044146
15 g of anhydrous potassium carbonate are added to a solution of 9 g of 3-methylaminopropanol and 10 g of 1,3-dibromopropane in 100 ml of ethanol, and the reaction mixture is stirred and refluxed for 24 hours. The mixture is allowed to cool, filtered, the filtrate is evaporated, and the residue is distilled. 6 g of N,N'-dimethyl-N,N'-bis(3-hydroxypropyl)-1,3-diaminopropane are obtained; b.p.: 150°-154° C/2 mmHg, nD20 = 1.4793.

reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylaminopropanol | 9 g | CNCCCO | C4H11NO
reactant | 1,3-dibromopropane | 10 g | BrCCCBr | C3H6Br2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N'-dimethyl-N,N'-bis(3-hydroxypropyl)-1,3-diaminopropane | 6 g | CN(CCCN(CCCO)C)CCCO | C11H26N2O2
